US05585491
2,6-Dichloro-4-methyl-5-fluoronicotinic acid chloride
A slurry of 30.8 g (0.147 moles) of 2,6-dichloro-4-methyl-5-fluoronicotinic acid in 200 mL of dichloromethane, containing a catalytic amount of dimethyl formamide, was treated dropwise over a 1-hour period with 19.2 mL (0.22 moles) oxalyl chloride. After 1 hour, the homogenous solution was evaporated in vacuo, diluted with an equal volume of dichloromethane, and evaporated in vacuo to yield 31.6 g of the title compound as an oil.

reactant | 2,6-dichloro-4-methyl-5-fluoronicotinic acid | 0.147 moles, 30.8 g | ClC1=C(C(=O)O)C(=C(C(=N1)Cl)F)C | C7H4Cl2FNO2
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.22 moles, 19.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2,6-Dichloro-4-methyl-5-fluoronicotinic acid chloride | 31.6 g | ClC1=C(C(=O)Cl)C(=C(C(=N1)Cl)F)C | C7H3Cl3FNO
